US07049307B2
To a stirred solution of 2-(3,3-dimethoxypropyl)-6-nitro-2H-indazole (1.5 g, 5.66 mmol) and NH4Cl (254 mg, 4.53 mmol) in EtOH/H2O (2:1, 56 mL) at room temperature was added Fe (962 mg, 17.8 mmol) in a single poroom temperature ion and the resulting mixture was heated for 2 h at 70 C. The heating bath was removed and upon reaching room temperature the mixture was filtered through a pad of celite. The residue was washed with hot Methanol (5×20 mL) and the combined eluent was concentrated under reduced pressure. The residue was diluted with Ethyl acetate (30 mL) and filtered. Concentration of the organic layer under reduced pressure gave 2-(3,3-dimethoxypropyl)-2H-indazole-6-ylamine as an amber oil. 1H NMR (300 MHz, DMSO-D6) δ ppm 2.12 (m, 2 H), 3.24 (s, 6 H), 4.26 (m, 2 H), 4.32 (t, J=5.59 Hz, 1 H), 5.18 (m, 2 H), 6.52 (m, 2 H), 7.35 (d, J=8.48 Hz, 1 H) and 8.04 (s, 1 H).

reactant | 2-(3,3-dimethoxypropyl)-6-nitro-2H-indazole | 5.66 mmol, 1.5 g | COC(CCN1N=C2C=C(C=CC2=C1)[N+](=O)[O-])OC | C12H15N3O4
reactant | NH4Cl | 4.53 mmol, 254 mg | [NH4+].[Cl-]
solvent | EtOH H2O | 56 mL | CCO.O
catalyst | Fe | 17.8 mmol, 962 mg | [Fe] | Fe
product | 2-(3,3-dimethoxypropyl)-2H-indazole-6-ylamine | COC(CCN1N=C2C=C(C=CC2=C1)N)OC | C12H17N3O2
